US04513002
A solution of 237 g of 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetic acid in 1 l of dry tetrahydrofuran is added dropwise over a period of 90 minutes to a suspension of 35.6 g of lithium aluminum hydride in 1.5 l of dry tetrahydrofuran stirred at 0° under argon. The mixture is subsequently heated to boiling under reflux for 90 minutes, cooled and successively treated dropwise with 35.6 ml of water, 35.6 ml of 15 percent sodium hydroxide and 106.8 ml of water. The resulting suspension is filtered with repeated back-washing with 2 l of tetrahydrofuran. After removal of the solvent in vacuo, the residue is taken up three times in 500 ml of toluene each time, the solutions obtained being in each case again evaporated. There is obtained pure 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol in the form of an oil, which crystallizes slowly.

reactant | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetic acid | 237 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CC(=O)O | C17H16O2
reactant | lithium aluminum hydride | 35.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 35.6 ml | O | H2O
reactant | sodium hydroxide | 35.6 ml | [OH-].[Na+]
reactant | water | 106.8 ml | O | H2O
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 l | O1CCCC1 | C4H8O
product | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCO | C17H18O
